US08431695B2
Step 1: Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-chloromethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanol (254 mg, 0.57 mmol) was suspended in 2 mL of dioxane and SOCl2 (83 μL, 1:1 mmol) was added followed by the dropwise addition of pyridine (0.14 mL, 1.7 mmol). The mixture was stirred for 1.5 hours and carefully quenched by the addition of 2M aqueous Na2CO3. The mixture was diluted with water and extracted with 3×10 mL of 10% MeOH/EtoAc. The combined organic fractions were washed with 1M aqueous H3PO4, brine, dried (Na2SO4), filtered and concentrated. The residue was purified by ISCO® Redi-sep 12, 80% to 100% EtOAc/hexanes to provide 65 mg (24%) of the title compound as a crusty solid. 1H-NMR (DMSO-d6) 8.55 (s, 1H), 8.19 (s, 1H), 8.08, (d, 1H) 7.99 (s, 1H) 7.83 (d, 1H) 7.70 (s, 1H), 7.46 (t, 1H), 7.40 (t, 1H), 7.38-7.26 (m, 4H), 7.24 (d, 1H), 7.22 (s, 1H), 5.72 (s, 2H), 4.60 (s, 2H); LC-MS [M+H]+=465.3, 467.2, RT=3.24 min.

reactant | {3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanol | 0.57 mmol, 254 mg | NC1=NC=NN2C1=C(C=C2C=2C=C(C=CC2)CO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H22N6O
reactant | SOCl2 | 1 mmol, 83 μL | O=S(Cl)Cl | Cl2OS
reactant | pyridine | 1.7 mmol, 0.14 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-chloromethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 65 mg, 24% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC(=CC=C2)CCl | C27H21ClN6
